datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc([NH2:10])cc1.C[N+](C)(C)CC(O)CC(=O)[O:21][H:20]>>COc1ccc([NH2+:10][H:20])cc1.C[N+](C)(C)CC(O)CC(=O)[O-:21] 10=20;20,21=21",
"Cc1cc2c(cc1C)[n+:21]([H:20])cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:10]>>Cc1cc2c(cc1C)[n:21]cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.O=C([O-])c1cc([N+](=O)[O-])ccc1[O:10][H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CCCC(C)(C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Ic1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Ic1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)[NH:10]CCO.[O-]c1cc[n+:21]([H:20])c([S-])[nH+]1>>CC(C)(C)[NH+:10](CCO)[H:20].[O-]c1cc[n:21]c([S-])[nH+]1 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CNCC[NH+:10]([H:20])CCN1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCc1cn[n:10]c(C)c1.c1ccc(NC2=[N+:21]([H:20])CCCO2)cc1>>CCc1cn[n+:10]([H:20])c(C)c1.c1ccc(NC2=[N:21]CCCO2)cc1 10=20;20,21=21",
"Cc1cc([C@@H]([NH3+])CO)c([O:21][H:20])c([C@@H]([NH3+])CO)c1.Nc1oc2c([n:10]1)CCCC2>>Cc1cc([C@@H]([NH3+])CO)c([O-:21])c([C@@H]([NH3+])CO)c1.Nc1oc2c([n+:10]1[H:20])CCCC2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])c1ccc(C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"O=[N+]([O-])c1cc(Br)c([O-:10])c(Br)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cc(Br)c([O:10][H:20])c(Br)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cnc(-c2ccccc2)c([O-:10])[nH+]1.O=C(CC#Cc1ccccc1)[O:21][H:20]>>Cc1cnc(-c2ccccc2)c([O:10][H:20])[nH+]1.O=C(CC#Cc1ccccc1)[O-:21] 10=20;20,21=21",
"C=CC[NH2+]CCCCCCCCCCC(=O)[O:21][H:20].NC(=O)C(CC(=O)[O-:10])c1ccccc1>>C=CC[NH2+]CCCCCCCCCCC(=O)[O-:21].NC(=O)C(CC(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CC(C)(C)N[NH:10]C(C)(C)C.CN1C(=O)c2c(nc[n:21]2[H:20])N=C1N>>CC(C)(C)N[NH+:10](C(C)(C)C)[H:20].CN1C(=O)c2c(nc[n-:21]2)N=C1N 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH2+:21][H:20].C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:10])[C@@H](C)[C@H]1N>>CCCCCCCCCCCCCCCC[NH2:21].C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:10][H:20])[C@@H](C)[C@H]1N 10=20;20,21=21",
"Cc1cc([O-:10])ccc1[N+](C)(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc([O:10][H:20])ccc1[N+](C)(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-:10])[NH2+]C1C(=O)[O-].Oc1ccccc1/C=N/c1ncc2c(n1)[nH]c[n+:21]2[H:20]>>CC(C)C1CC(CC(=O)[O:10][H:20])[NH2+]C1C(=O)[O-].Oc1ccccc1/C=N/c1ncc2c(n1)[nH]c[n:21]2 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n:10]1.[NH3+][C@H]1CCCC[C@H]1[NH2+:21][H:20]>>COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n+:10]1[H:20].[NH3+][C@H]1CCCC[C@H]1[NH2:21] 10=20;20,21=21",
"CC[N:10]1CCCC1.O=C1NC(=S)c2[nH]c[n+:21]([H:20])c2N1>>CC[N+:10]1([H:20])CCCC1.O=C1NC(=S)c2[nH]c[n:21]c2N1 10=20;20,21=21",
"CN(C)c1ccc(C2=C[N:10]3CCC2CC3)cc1.O=[N+]([O-])c1cc2[nH]c[n+:21]([H:20])c2cc1[N+](=O)[O-]>>CN(C)c1ccc(C2=C[N+:10]3([H:20])CCC2CC3)cc1.O=[N+]([O-])c1cc2[nH]c[n:21]c2cc1[N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc([N+](C)(C)[O-:10])cc1.[S-]c1nc([S:21][H:20])c2[nH]cnc2n1>>Cc1ccc([N+](C)(C)[O:10][H:20])cc1.[S-]c1nc([S-:21])c2[nH]cnc2n1 10=20;20,21=21",
"O=C(c1cccc(O)c1)[O-:10].O=C1[C@@H]2C[C@@H](C[N+:21]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12>>O=C(c1cccc(O)c1)[O:10][H:20].O=C1[C@@H]2C[C@@H](C[N:21]3CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
"CCCCB(O)[O-:10].C[N+:21](C)(C([O-])O)[H:20]>>CCCCB(O)[O:10][H:20].C[N:21](C)C([O-])O 10=20;20,21=21",
"CC(C)(C)c1cc([NH2+:21][H:20])cc(C(C)(C)C)c1[N+](=O)[O-].C[NH+]1CC[N:10](C(c2ccccc2)c2ccc(Cl)cc2)CC1>>CC(C)(C)c1cc([NH2:21])cc(C(C)(C)C)c1[N+](=O)[O-].C[NH+]1CC[N+:10](C(c2ccccc2)c2ccc(Cl)cc2)([H:20])CC1 10=20;20,21=21",
"C=C(C)C(O)[NH2+:21][H:20].COCc1ccccc1C[N:10](C)C>>C=C(C)C(O)[NH2:21].COCc1ccccc1C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[S-]CC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[S-]CC[NH2+:10][H:20] 10=20;20,21=21",
"C[NH+](C)C[C@H]1[C@@H]2CC[C@@](C)([C@H]1[NH2:10])C2(C)C.NC(=O)C(CCC(=O)[O:21][H:20])NC=O>>C[NH+](C)C[C@H]1[C@@H]2CC[C@@](C)([C@H]1[NH2+:10][H:20])C2(C)C.NC(=O)C(CCC(=O)[O-:21])NC=O 10=20;20,21=21",
"CCCCCC/[NH+]=C/c1c(C)c[n+:21]([H:20])c(C)c1O.c1ccc(C[NH2:10])cc1>>CCCCCC/[NH+]=C/c1c(C)c[n:21]c(C)c1O.c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[N:10](CC)CCSC1CCCCC1.c1ccc2ncc([O:21][H:20])cc2c1>>CC[N+:10](CC)(CCSC1CCCCC1)[H:20].c1ccc2ncc([O-:21])cc2c1 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(C)cc2)CCC1(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(C)cc2)[H:20])CCC1(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=[NH2+])N(C)C)cc1.c1ncc2cc([O:21][H:20])ccc2n1>>Cc1ccc(S(=O)(=O)[N:10](CCC(=[NH2+])N(C)C)[H:20])cc1.c1ncc2cc([O-:21])ccc2n1 10=20;20,21=21",
